US04999355
Para-toluenesulphonic acid (50 mg) is added to an agitated solution of 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone (10 g) and 4-chlorophenylamine (4.6 g) in xylene (230 cc) at a temperature close to 20° C. in a Dean Stark apparatus. Agitation is continued for 6 hours at a temperature close to 135° C. After cooling to a temperature close to 20° C., the precipitate formed is filtered, washed with xylene (2×50 cc), dried under reduced pressure (20 mm Hg; 2.7 kPa) and recrystallized from boiling acetonitrile (360 cc). 7.1 g of 3-(4-chlorophenylamino)-2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone are obtained, melting at 188° C.

reactant | 2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-3-hydroxy-1-isoindolinone | 10 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1C(C2=CC=CC=C2C1O)=O | C22H24N2O2
reactant | 4-chlorophenylamine | 4.6 g | ClC1=CC=C(C=C1)N | C6H6ClN
solvent | xylene | 230 cc | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Para-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 3-(4-chlorophenylamino)-2-[3-(4-phenyl-1,2,3,6-tetrahydro-1-pyridyl)propyl]-1-isoindolinone | 7.1 g | ClC1=CC=C(C=C1)NC1N(C(C2=CC=CC=C12)=O)CCCN1CCC(=CC1)C1=CC=CC=C1 | C28H28ClN3O
